US04912135
Preparation of 3,5-bis(ethoxyacetylamino)-4-chlorobenzonitrile:
To a solution of 4-chloro-3,5-diaminobenzonitrile (3.3 g) in pyridine (80 ml) is added dropwise ethoxyacetyl chloride (4.8 ml) at room temperature. The mixture is stirred at room temperature for 3 hours, and thereafter, pyridine is distilled off under reduced pressure. To the residue is added water, and the resulting solid substance is separated by filtration and washed with water. The resulting crude crystals are recrystallized from ethanol to give the title compound (4.0 g) having the following physical properties.

reactant | 4-chloro-3,5-diaminobenzonitrile | 3.3 g | ClC1=C(C=C(C#N)C=C1N)N | C7H6ClN3
reactant | ethoxyacetyl chloride | 4.8 ml | C(C)OCC(=O)Cl | C4H7ClO2
solvent | pyridine | 80 ml | N1=CC=CC=C1 | C5H5N
product | 3,5-bis(ethoxyacetylamino)-4-chlorobenzonitrile | 4.0 g | C(C)OCC(=O)NC=1C=C(C#N)C=C(C1Cl)NC(COCC)=O | C15H18ClN3O4
